US04927926
A solution of 1.22 g (3.92 mmoles) of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 0.86 g (7.85 mmoles) of 3hydroxyazetidine hydrochloride, 2 g (19.8 mmoles) of triethylamine and 20 ml of dimethyl sulphoxide (DMSO) is heated for 4 hours at 80° C. The solution is allowed to cool and is added to a mixture of ice and water, giving a precipitate which is filtered and washed with water. The solid is dried under vacuum yielding 1.40 g (97%) of ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate melting at 260°-270° C.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 3.92 mmoles, 1.22 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | 3hydroxyazetidine hydrochloride | 7.85 mmoles, 0.86 g | Cl.OC1CNC1
reactant | triethylamine | 19.8 mmoles, 2 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | ethyl 1-cyclopropyl-6,8-difluoro-7-(3-hydroxy-1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.40 g, 97% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)O)F)=O)C(=O)OCC | C18H18F2N2O4
